US09445594B2
Preparation of 2-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)isoindoline-1,3-dione (C5)
In a 250 mL flask, 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-ol (3.00 g, 8.24 mmol), phthalimide (2.50 g, 17.3 mmol) and triphenylphosphine (5.20 g, 19.8 mmol) were diluted with tetrahydrofuran (30 mL). The reaction mixture was cooled to 0° C. and diisopropylazodicarboxylate (4.00 g, 19.8 mmol) was added. The reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated and loaded onto silica gel. The resulting slurry was purified by flash column chromatography using 10% ethyl acetate/petroleum ether as eluent to afford the title compound as white solid (2.50 g, 75%); mp 114-118° C.; 1H NMR (300 MHz, CDCl3) δ 8.53 (s, 1H), 8.07 (d, J=8.1 Hz, 2H), 7.86-7.76 (m, 4H), 7.72-7.66 (m, 2H), 7.37 (d, J=8.7 Hz, 2H), 7.31 (d, J=7.5 Hz, 2H), 3.77 (t, J=6.9 Hz, 2H), 2.75 (t, J=7.8 Hz, 2H), 2.08 (t, J=6.9 Hz, 2H); ES+API m/z 493 ([M+H]+).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-ol | 8.24 mmol, 3.00 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCO)(F)F | C18H16F3N3O2
reactant | phthalimide | 17.3 mmol, 2.50 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 19.8 mmol, 5.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 19.8 mmol, 4.00 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)isoindoline-1,3-dione | 2.50 g, 75% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN1C(C2=CC=CC=C2C1=O)=O)(F)F | C26H19F3N4O3
